* c:\users\admin\desktop\yash\iitb\intfosse\intfosse.cir

.include PMOS-0.5um.lib
.include NMOS-0.5um.lib
m1 net-_i1-pad1_ net-_i1-pad1_ net-_m1-pad3_ net-_m1-pad3_ mos_n W=100u L=100u M=1
m7 vout net-_i1-pad1_ net-_m1-pad3_ net-_m1-pad3_ mos_n W=100u L=100u M=1
m2 net-_m2-pad1_ vin- net-_m2-pad3_ net-_m2-pad3_ mos_n W=100u L=100u M=1
m4 net-_m2-pad3_ net-_i1-pad1_ net-_m1-pad3_ net-_m1-pad3_ mos_n W=100u L=100u M=1
m6 net-_c1-pad1_ vin+ net-_m2-pad3_ net-_m2-pad3_ mos_n W=100u L=100u M=1
m8 net-_i1-pad2_ net-_c1-pad1_ vout vout mos_p W=100u L=100u M=1
m3 net-_i1-pad2_ net-_m2-pad1_ net-_m2-pad1_ net-_m2-pad1_ mos_p W=100u L=100u M=1
m5 net-_i1-pad2_ net-_m2-pad1_ net-_c1-pad1_ net-_c1-pad1_ mos_p W=100u L=100u M=1
c2  vout gnd 10pf
c1  net-_c1-pad1_ vout 3pf
i1 net-_i1-pad1_ net-_i1-pad2_  dc 30u
v3 gnd net-_i1-pad2_  dc 2
v2 net-_m1-pad3_ gnd  dc -2
v4  vin+ gnd sine(1 50 1K 0 0)
v1  vin- gnd sine(1 -50 1K 0 0)
.ac lin 100 1Hz 1GHz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
